US04895860
Step (1) Preparation of 3,4-Dihydro-2-naphthalenylacetonitrile
To a mechanically stirred mixture of hexane washed sodium hydride (8.98 g, 0.187 mol, 50%/mineral oil) in THF (400 mL) was added diethyl cyanomethylphosphonate (33.13 g, 0.187 mol) dropwise. The reaction was stirred at room temperature for 1/2 hour. β-Tetralone (24.8 g, 0.170 mol) in THF (100 mL) was added dropwise at 0° C., and the reaction was stirred at room temperature for 1 hour. The reaction was diluted with water (600 mL) and extracted with ether (3×400 mL). The organic phase was washed with brine, dried (MgSO4), and concentrated under reduced pressure to give an orange oil. Distillation from bulb to bulb under high vacuum yielded 22.65 g (79%) of product as a pale yellow oil.

reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 0.187 mol, 8.98 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.187 mol, 33.13 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | β-Tetralone | 0.170 mol, 24.8 g | C1CC2=CC=CC=C2CC1=O | C10H10O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 600 mL | O | H2O
product | 3,4-Dihydro-2-naphthalenylacetonitrile | 22.65 g, 79% | C1(=CCCC2=CC=CC=C12)CC#N | C12H11N
